US05693635
N-[4-(Pyrido[2,3-b][1,4]benzothiazepin-5(6H)-ylcarbonyl)phenyl]-2-methylbenzamide
A mixture of 5 mmol of 5,6-dihydro-5-(4-aminobenzoyl)pyrido[2,3-b][1,4]benzothiazepine, 5.5 mmol of 2-methylbenzoyl chloride and 10 mmol of triethylamine in 15 ml of dichloromethane is stirred at room temperature for 16 hours. The mixture is diluted with 50 ml of dichloromethane and the solution washed with 20 ml each of H2O, 1M citric acid, NaHCO3, brine and dried (Na2SO4). The solvent is removed under vacuum to give a solid. The solid is purified by chromatography on silica gel with ethyl acetate-hexane as solvent to give the product as a solid.

reactant | 5,6-dihydro-5-(4-aminobenzoyl)pyrido[2,3-b][1,4]benzothiazepine | 5 mmol | NC1=CC=C(C(=O)N2C3=C(SC4=C(C2)C=CC=C4)N=CC=C3)C=C1 | C19H15N3OS
reactant | 2-methylbenzoyl chloride | 5.5 mmol | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | triethylamine | 10 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-[4-(Pyrido[2,3-b][1,4]benzothiazepin-5(6H)-ylcarbonyl)phenyl]-2-methylbenzamide | N1=CC=CC2=C1SC1=C(CN2C(=O)C2=CC=C(C=C2)NC(C2=C(C=CC=C2)C)=O)C=CC=C1 | C27H21N3O2S
